US05075306
7,8-Dihydroxythiazolo[5,4-f]quinoxaline (0.44 g, 2 mmol) was added portionwise to 2 ml of chlorosulfonic acid with stirring at room temperature. Then the mixture was stirred at 150° C. for 5 h, and left over night at room temperature. The solution was added dropwise to 50 g of crushed ice with stirring. The resulting solid was collected by filtration after 1 h and washed with ice-water and a small amount of ethanol and ether, affording 0.30 g (47%) of crude 4-chlorosulfonyl-7,8-dihydroxythiazolo[5,4-f]quinoxaline. The crude product was stirred with 25 ml of aqueous ammonium hydroxide (25%) for 20 min at room temperature and at 100° C. for 10 min. Nitrogen was bubbled through the hot solution for 5-10 min and after cooling to 0° C. the solution was acidified to pH 1 with 4M hydrochloric acid. The resulting prcipitate was isolated by filtration and dissolved in 150 ml of hot N,N-dimethylformamide. A solid impurity was removed from the hot solution by filtration, and after treatment with charcoal the solution was cooled and evaporated to dryness. The residue was taken up with 15 ml of hot 2N sodium hydroxide, the resulting solution was treated with charcoal, cooled to 0° C. and acidified with 4M hydrochloric acid. The precipitated solid was isolated by centrifugation and washed with water and ethanol to give 60 mg (21%) of the title compound, m.p.>400° C.; IR (KBr): 1710, 1690 cm-1 ; 1H-NMR (DMSO-d6): 7.28 (broad s, 2H, NH2), 7.90 (s, 1H, ArH), 9.53 (s, 1H, ArH), 12.17 (broad s, 1H, OH), 12.60 (broad s, 1H, OH).

reactant | 7,8-Dihydroxythiazolo[5,4-f]quinoxaline | 2 mmol, 0.44 g | OC1=NC2=CC=C3C(=C2N=C1O)SC=N3 | C9H5N3O2S
reactant | chlorosulfonic acid | 2 ml | ClS(=O)(=O)O | ClHO3S
product | 4-chlorosulfonyl-7,8-dihydroxythiazolo[5,4-f]quinoxaline | 0.30 g, 47% | ClS(=O)(=O)C1=C2C(=C3N=C(C(=NC3=C1)O)O)SC=N2 | C9H4ClN3O4S2
